US04960778
STAGE B: 3-Methyl-6-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-methylpropionyl}benzoxazolinone
100 cm3 of anhydrous acetone, 0.01 mole of 3-methyl-6-(2-methylenepropionyl)benzoxazolinone and 0.01 mole of 1-(2-methoxyphenyl)piperazine are introduced successively into a 250-cm3 ground-necked flask equipped with a reflux condenser and a magnetic stirrer. The mixture is brought to reflux for 6 hours and allowed to cool. The product is drained: the product of the title is obtained.

reactant | 3-methyl-6-(2-methylenepropionyl)benzoxazolinone | 0.01 mole | CN1C(OC2=C1C=CC(=C2)C(C(C)=C)=O)=O | C12H11NO3
reactant | 1-(2-methoxyphenyl)piperazine | 0.01 mole | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | acetone | 100 cm3 | CC(=O)C | C3H6O
product | 3-Methyl-6-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-methylpropionyl}benzoxazolinone | CN1C(OC2=C1C=CC(=C2)C(C(CN2CCN(CC2)C2=C(C=CC=C2)OC)C)=O)=O | C23H27N3O4
